US07504403B2
[1-Methyl-1-(3-{2-[4-(4-oxo-8-phenyl-3,4-dihydro-2H,6H-pyrimido[1,2-a]pyrimidin-1-yl)-pyrimidin-2-ylamino]-propyl}-phenyl)-ethyl]-carbamic acid tert-butyl ester:
To a mixture of {1-[3-(2-amino-propyl)-phenyl]-1-methyl -ethyl}-carbamic acid tert-butyl ester (0.19 g, 0.65 mmol) and 1-(2-methanesulfonyl-pyrimidin-4-yl) -8-phenyl-1,2,3,6-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one (0.26 g, 0.72 mmol) in NMP (2 mL) was heated to 100° C. for 17 h. The mixture was poured into water (15 mL) and extracted with ethyl acetate. The organic extracts were combined, washed with saturated sodium bicarbonate, brine, dried over magnesium sulfate and chromatographed on silica gel using 0-4% MeOH/CH2Cl2 to afford a light yellow oil. M+1=596.

reactant | {1-[3-(2-amino-propyl)-phenyl]-1-methyl -ethyl}-carbamic acid tert-butyl ester | 0.65 mmol, 0.19 g | C(C)(C)(C)OC(NC(C)(C)C1=CC(=CC=C1)CC(C)N)=O | C17H28N2O2
reactant | 1-(2-methanesulfonyl-pyrimidin-4-yl) -8-phenyl-1,2,3,6-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.72 mmol, 0.26 g | CS(=O)(=O)C1=NC=CC(=N1)N1C=2N(C(CC1)=O)CC=C(N2)C2=CC=CC=C2 | C18H17N5O3S
reactant | water | 15 mL | O | H2O
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | [1-Methyl-1-(3-{2-[4-(4-oxo-8-phenyl-3,4-dihydro-2H,6H-pyrimido[1,2-a]pyrimidin-1-yl)-pyrimidin-2-ylamino]-propyl}-phenyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)(C1=CC(=CC=C1)CC(C)NC1=NC=CC(=N1)N1C=2N(C(CC1)=O)CC=C(N2)C2=CC=CC=C2)C)=O | C34H41N7O3
